US08791267B2
Into a 20 mL vial with stir bar was added 5-(3′-chloro-2-fluoro-6-methoxy-biphenyl-3-ylmethyl)-pyridin-2-ylamine (P-252, 565 mg, 1.65 mmol), ethyl bromopyruvate (0.52 mL, 4.12 mmol), and 5 mL of DME. The reaction was stirred at room temperature for 18 hours, then basified with NaHCO3 (aq. sat). The product was extracted with ethyl acetate and concentrated. Purification by flash column chromatography (5% acetone/dichloromethane) provided a tan solid which was triturated with ether to obtain 6-(3′-chloro-2-fluoro-6-methoxy-biphenyl-3-ylmethyl)-imidazo[1,2-a]pyridine-2-carboxylic acid ethyl ester (I-37) (198 mg, 27%) as an off-white solid.

reactant | 5-(3′-chloro-2-fluoro-6-methoxy-biphenyl-3-ylmethyl)-pyridin-2-ylamine | 1.65 mmol, 565 mg | ClC=1C=C(C=CC1)C1=C(C(=CC=C1OC)CC=1C=CC(=NC1)N)F | C19H16ClFN2O
reactant | ethyl bromopyruvate | 4.12 mmol, 0.52 mL | BrCC(C(=O)OCC)=O | C5H7BrO3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DME | 5 mL | COCCOC | C4H10O2
product | 6-(3′-chloro-2-fluoro-6-methoxy-biphenyl-3-ylmethyl)-imidazo[1,2-a]pyridine-2-carboxylic acid ethyl ester | 198 mg, 27% | C(C)OC(=O)C=1N=C2N(C=C(C=C2)CC=2C(=C(C(=CC2)OC)C2=CC(=CC=C2)Cl)F)C1 | C24H20ClFN2O3
